US07368578B2
To a mixture of methyl 4-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoate (0.34 g), tetrahydrofuran (5 mL) and methanol (5 mL) was added 1N aqueous sodium hydroxide solution (2 mL), and the mixture was heated under reflux for 1 hr. To the reaction mixture were added 1N hydrochloric acid (2 mL) and water, and tetrahydrofuran and methanol were evaporated under reduced pressure. The precipitated crystals were collected by filtration to give 4-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid as colorless crystals (0.31 g, yield 94%). Recrystallization from tetrahydrofuran-hexane gave colorless prism crystals. melting point: 194-195° C.

reactant | methyl 4-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoate | 0.34 g | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C(=O)OC)C=C2)C=C1)OC | C36H38N3O9P
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2 mL | Cl | ClH
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid | 0.31 g, yield 94% | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C(=O)O)C=C2)C=C1)OC | C35H36N3O9P
